//============================================
// Define VDD and VSS
//============================================

VVDD (VDD 0) vsource dc=pvdd 
VVSS (VSS 0) vsource dc=0


//============================================
// Source that will swing VGS from -VDD to VDD 
//============================================

VVGS (VGS VDD) vsource


//============================================
// Drain bias
//============================================

VVDS (VDS VDD) vsource dc=-pvdd


//============================================
// Test transistor
//============================================

P1 (VDS VGS VDD VDD) P_TRANSISTOR width=wdef length=ldef


