//============================================
// Define VDD and VSS
//============================================

VVDD (VDD 0) vsource dc=pvdd 
VVSS (VSS 0) vsource dc=pvss
VVBN (VBN 0) vsource dc=pvbn
VVBP (VBP 0) vsource dc=pvbp

//============================================
// Source that will swing VGS from -VDD to VDD 
//============================================

VVGS (VGS VSS) vsource


//============================================
// Drain bias
//============================================

VVDS (VDS VSS) vsource dc=pvdd


//============================================
// Test transistor (D G S B)
//============================================

N1 (VDS VGS VSS VBN) N_TRANSISTOR width=wdef length=ldef

N2 (VDS VGS VSS VBN) PD_TRANSISTOR width=wpd length=lpd
N3 (VDS VGS VSS VBN) PG_TRANSISTOR width=wpg length=lpg